US07045545B1
Ethyl 2-(5-fluorobenzofur-7-yl)acetate
A mixture of 1.43 gm (5.10 mMol) ethyl 2-acetoxy-2-(5-fluorobenzofur-7-yl)acetate, 7.31 gm (40.8 mMol) hexamethylphosphoramide, 0.20 gm (6.12 mMol) methanol, and 153 mL (15.3 mMol) samarium(II) iodide tetrahydrofuran complex (0.1 M in tetrahydrofuran) was stirred at room temperature under a nitrogen atmosphere for 15 minutes. The reaction mixture was then diluted 10 fold with ethyl acetate, washed with water, and concentrated under reduced pressure to provide 1.09 gm (96%) of the desired compound.

reactant | ethyl 2-acetoxy-2-(5-fluorobenzofur-7-yl)acetate | 5.10 mMol, 1.43 gm | C(C)(=O)OC(C(=O)OCC)C1=CC(=CC=2C=COC21)F | C14H13FO5
reactant | hexamethylphosphoramide | 40.8 mMol, 7.31 gm | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | methanol | 6.12 mMol, 0.20 gm | CO | CH4O
reactant | samarium(II) iodide tetrahydrofuran | 15.3 mMol, 0.1 M, 153 mL | O1CCCC1.[I-].[Sm+2].[I-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(5-fluorobenzofur-7-yl)acetate | 1.09 gm, 96% | FC=1C=C(C2=C(C=CO2)C1)CC(=O)OCC | C12H11FO3
